US05827865
3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-methylphenoxy)propanoic acid
The title compound, mp 142°-3° C. (dichloromethane-hexane), was prepared from ethyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-methylphenoxy)propanoate by a method analogous to that described for Example 2.

reactant | ethyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-methylphenoxy)propanoate | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OCC)OC2=C(C=CC=C2)C | C28H30N2O5
solvent | dichloromethane hexane | ClCCl.CCCCCC
product | 3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-methylphenoxy)propanoic acid | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)O)OC2=C(C=CC=C2)C | C26H26N2O5
